US09290467B2
A) (2S,4S)-1-But-3-enyl-4-fluoro-pyrrolidine-2-carboxylic acid methyl ester
In a 25 mL round-bottomed flask, (2S,4S)-methyl 4-fluoropyrrolidine-2-carboxylate hydrochloride (160 mg, 871 μmol, Eq: 1.00) was combined with acetonitrile (3 mL) to give a white suspension. Hunig's base (282 mg, 380 μL, 2.18 mmol, Eq: 2.50) and 4-bromobut-1-ene (144 mg, 108 μL, 1.05 mmol, Eq: 1.20) were added sequentially. The reaction mixture was stirred at 70° C. for 2 days. The crude reaction mixture was concentrated in vacuo. The reaction mixture was poured into an aqueous 5% Na2CO3 solution and extracted with DCM (2×). The organic layers were combined, washed with brine (1×), the organic layers were dried over Na2SO4 and concentrated in vacuo to yield a yellow liquid (160 mg; 91%). m/z=202.2 [M+H]+.

reactant | (2S,4S)-methyl 4-fluoropyrrolidine-2-carboxylate hydrochloride | 871 μmol, 160 mg | Cl.F[C@H]1C[C@H](NC1)C(=O)OC
reactant | Hunig's base | 2.18 mmol, 380 μL, 282 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromobut-1-ene | 1.05 mmol, 108 μL, 144 mg | BrCCC=C | C4H7Br
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (2S,4S)-1-But-3-enyl-4-fluoro-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)F)CCC=C | C10H16FNO2
